US04278672
In 300 ml of anhydrous tetrahydrofuran, 2.9 g (0.06 mole) of sodium hydride (50% in oil) was added thereto. The mixture was cooled below 10° C. and 7.0 g (0.06 mole) of 1-ethyl-1,3-dimethylurea was added to the mixture under stirring. The reaction was then continued at a room temperature for 15 hours. Next the reaction mixture was cooled below 0° C. and 7.1 g (0.06 mole) of phenyl isocyanate was added dropwise with stirring. The reaction was continued at about 0° C. for 3 hours, then the solvent was removed by distillation under reduced pressure to obtain a residue. Ice-water was added to the residue and 1 N-hydrochloric acid was added to make the mixture acidic, then extracted with chloroform. The extracted liquor was dried with anhydrous sodium sulfate and the solvent was removed by distillation under reduced pressure to obtain a residue. The residue was recrystallized from ethanol-petroleum ether to obtain 7.2 g (yield, 51%) of 1-ethyl-1,3-dimethyl-5-phenylbiuret having a melting point of 88.5°-90.5° C.

reactant | sodium hydride | 0.06 mole, 2.9 g | [H-].[Na+]
reactant | 1-ethyl-1,3-dimethylurea | 0.06 mole, 7.0 g | C(C)N(C(=O)NC)C | C5H12N2O
reactant | phenyl isocyanate | 0.06 mole, 7.1 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 1-ethyl-1,3-dimethyl-5-phenylbiuret | 7.2 g, 51% | C(C)N(C(=O)N(C(=O)NC1=CC=CC=C1)C)C | C12H17N3O2
